US08232312B2
tert.butyl [(1-benzoyl-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-acetate
50 mg tert.butyl [(3,5-dichloro-phenylsulphonyl)-(1H-indol-5-yl)-amino]-acetate are dissolved in 2 ml dichloromethane. 5 mg powdered sodium hydroxide and 19 μl benzoyl chloride are added. Then the mixture is stirred for 4 hours at ambient temperature, divided between 1 N sodium hydroxide solution and ethyl acetate, the aqueous phase is extracted with ethyl acetate and the combined organic phases are dried with magnesium sulphate. The solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 10:1 to 1:2).

reactant | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(1H-indol-5-yl)-amino]-acetate | 50 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2C=CNC2=CC1)CC(=O)OC(C)(C)C | C20H20Cl2N2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzoyl chloride | 19 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | tert.butyl [(1-benzoyl-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-acetate | C(C1=CC=CC=C1)(=O)N1C=CC2=CC(=CC=C12)N(S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)CC(=O)OC(C)(C)C | C27H24Cl2N2O5S
